US08017775B2
Methyl 3-amino-4-chlorobenzoate (Reference Compound No. 9)
3-Amino-4-chlorobenzoic acid (20.9 g, 0.122 mol) and cecium carbonate (79.5 g, 0.244 mol) were suspended in N,N-dimethylformamide (500 mL), and methyl iodide (7.60 mL, 0.122 mol) was added thereto, and then the reaction mixture was stirred under argon atmosphere at room temperature for 2 hours. Ethyl acetate (250 mL) and diethyl ether (500 mL) were added to the reaction mixture and then the whole was washed with water (1 L). The aqueous layer was extracted with ethyl acetate/diethylether (2/1) (300 mL, 3 times). The combined organic layer was washed with water (500 mL, 4 times) and saturated brine (300 mL) successively. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was removed under reduced pressure to give the titled reference compound (21.82 g) as a pale brown solid. (Yield 97%)

reactant | 3-Amino-4-chlorobenzoic acid | 0.122 mol, 20.9 g | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
reactant | carbonate | 0.244 mol, 79.5 g | C([O-])([O-])=O
reactant | methyl iodide | 0.122 mol, 7.60 mL | CI | CH3I
reactant | Ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | Methyl 3-amino-4-chlorobenzoate | 21.82 g, Yield 97% | NC=1C=C(C(=O)OC)C=CC1Cl | C8H8ClNO2
